US07723331B2
b) 1-{3-[(1-Methylpiperidin-4-yl)methoxy]phenyl}methanamine
3-[(1-Methylpiperidin-4-yl)methoxy]benzonitrile (0.417 g, 1.81 mmol) was dissolved in MeOH/NH3(sat) (0.05M) and hydrogenated over a Raney Nickel CatCart (30×4 mm) using the H-Cube system (50 bar, 50° C., 1 mL/min). The product was concentrated and dried in vacuo, to give the title compound as an oil. Yield: 0.371 g (87%). 1H NMR (400 MHz, CD3OD) δ 7.18 (t, 1H, J=8.1 Hz), 6.83-6.89 (m, 2H), 6.75 (dd, 1H, J=8.1 Hz, J=2.1 Hz), 4.82 (s, 2H), 3.80 (d, 2H, J=6.1 Hz), 3.71 (s, 2H), 2.84-2.91 (m, 2H), 2.46 (s, 3H), 1.97-2.06 (m, 2H), 1.79-1.87 (m, 2H), 1.70-1.79 (m, 1H), 1.33-1.46 (m, 2H).

reactant | 3-[(1-Methylpiperidin-4-yl)methoxy]benzonitrile | 1.81 mmol, 0.417 g | CN1CCC(CC1)COC=1C=C(C#N)C=CC1 | C14H18N2O
catalyst | Raney Nickel | [Ni] | Ni
product | 1-{3-[(1-Methylpiperidin-4-yl)methoxy]phenyl}methanamine | CN1CCC(CC1)COC=1C=C(C=CC1)CN | C14H22N2O
